US09255090B2
A mixture of 2-chloro-4-fluorobenzaldehyde (3.17 g, 20 mmol, 1.0 eq.) and aminoacetaldehyde dimethyl acetal (2.18 mL, 20 mmol, 1.0 eq.) in toluene (50 mL) was stirred at 130° C. with concomitant removal of H2O (Dean-Stark) for 2.5 hours. The mixture was concentrated in vacuo and dried under h.v. The residue was dissolved in EtOH (100 mL). The solution was cooled to 0° C. and NaBH4 (1.14 g, 30 mmol, 1.5 eq.) was added portionwise. The cooling bath was removed and the solution was stirred at r.t. for 18 hours. The resulting reaction mixture was quenched with sat. aq. NaHCO3 soln. (150 mL). The mixture was extracted with DCM (3×50 mL). The comb. org. phases were washed with sat. aq. NaCl soln. (1×50 mL), dried over MgSO4, and concentrated in vacuo to give (2-chloro-4-fluoro-benzyl)-(2,2-dimethoxy-ethyl)-amine as a yellow oil. The product was used without further purification.

reactant | 2-chloro-4-fluorobenzaldehyde | 20 mmol, 3.17 g, 1.0 eq. | ClC1=C(C=O)C=CC(=C1)F | C7H4ClFO
reactant | aminoacetaldehyde dimethyl acetal | 20 mmol, 2.18 mL, 1.0 eq. | COC(CN)OC | C4H11NO2
reactant | H2O | O | H2O
reactant | NaBH4 | 30 mmol, 1.14 g, 1.5 eq. | [BH4-].[Na+]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | (2-chloro-4-fluoro-benzyl)-(2,2-dimethoxy-ethyl)-amine | ClC1=C(CNCC(OC)OC)C=CC(=C1)F | C11H15ClFNO2
